US09216980B2
Step 1: 3-{N-[(4-Methoxyphenyl)methyl]aminocarbonyl}phenylboronic acid
3-Carboxyphenylboronic acid (140 mg, 0.84 mmol), PyBOP (376 mg, 0.72 mmol) and HOBt (97.7 mg, 0.72 mmol) were dissolved in DMF (3.18 mL) and treated with DIPEA (420 μL, 2.41 mmol). After 5 min at ambient temperature, 4-methoxybenzenemethanamine (78 μL, 0.60 mmol) was added. The homogeneous reaction mixture was stirred at ambient temperature for 16 h, the solvent was removed under reduced pressure, and the residue purified by preparative HPLC (5-40% MeCN over 40 min, 35 mL/min) to afford the product as a white solid.

reactant | 3-Carboxyphenylboronic acid | 0.84 mmol, 140 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | PyBOP | 0.72 mmol, 376 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.72 mmol, 97.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.41 mmol, 420 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methoxybenzenemethanamine | 0.60 mmol, 78 μL | COC1=CC=C(C=C1)CN | C8H11NO
solvent | DMF | 3.18 mL | CN(C)C=O | C3H7NO
product | 3-{N-[(4-Methoxyphenyl)methyl]aminocarbonyl}phenylboronic acid | COC1=CC=C(C=C1)CNC(=O)C=1C=C(C=CC1)B(O)O | C15H16BNO4
